US07217740B2
To a mixture of 4-(phenylsulfonyl)benzaldehyde (8 g, 32.5 mmol) and potassium carbonate (8.97 g, 65 mmol) in methanol (400 mL) was added diethyl (1-diazo-2-oxopropyl)phosphonate (8.6 g, 39 mmol). The reaction was stirred at room temperature for 3 days then poured into water (600 mL) and extracted with ethyl acetate (×3). The combined organic layers were dried and evaporated. The residue was purified by flash column chromatography on silica, eluting with 5% ethyl acetate/isohexane, to give 1-ethynyl-4-(phenylsulfonyl)benzene (3.3 g, 42%). δH (500 MHz, CDCl3): 7.94–7.88 (4H, m), 7.60–7.50 (5H, m), 3.23 (1H, s).

reactant | 4-(phenylsulfonyl)benzaldehyde | 32.5 mmol, 8 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
reactant | potassium carbonate | 65 mmol, 8.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl (1-diazo-2-oxopropyl)phosphonate | 39 mmol, 8.6 g | [N+](=[N-])=C(C(C)=O)P(OCC)(OCC)=O | C7H13N2O4P
reactant | water | 600 mL | O | H2O
solvent | methanol | 400 mL | CO | CH4O
product | 1-ethynyl-4-(phenylsulfonyl)benzene | 3.3 g, 42% | C(#C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C14H10O2S
